US04605672
2,5-Dimethyl-4'-[2-(diethylamino)-ethoxy]-α-ethyl benzhydrol
10.5 g. of 2,5-dimethyl-4'-[2-(diethylamino)-ethoxy]-α-ethinyl-benzhydrol are dissolved in 110 ml. of methanol, and 0.5 g. of a 10% palladium-on-charcoal catalyst are added to the mixture. The reaction mixture is hydrogenated until the uptake of the calculated amount of hydrogen is complete. Thereafter the catalyst is filtered off, and the solvent is evaporated in vacuo. Recrystallization of the solid residue obtained from a mixture of n-hexane and ethyl acetate yields 9.1 g. of the title compound, melting at 89° to 90° C.

reactant | 2,5-dimethyl-4'-[2-(diethylamino)-ethoxy]-α-ethinyl-benzhydrol | CC1=C(C(C2=CC=C(C=C2)OCCN(CC)CC)(O)C#C)C=C(C=C1)C | C23H29NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2,5-Dimethyl-4'-[2-(diethylamino)-ethoxy]-α-ethyl benzhydrol | CC1=C(C(C2=CC=C(C=C2)OCCN(CC)CC)(O)CC)C=C(C=C1)C | C23H33NO2
